US05753708
Trishydroxymethyl-aminomethane 4-hydroxybutyrate
500 ml (565 g, 6.56 mol) of gamma-butyrolactone are placed in 1.8 l of water. 795 g (6.56 mol) of trishydroxymethylmethylamine are added to the solution obtained. The mixture is then heated to 60° C. for 8 hours. The pH value falls over this period from an initial value of 10.5 to 7.5. The volume of the solution obtained is then adjusted to 3.4 l by the addition of water in order to achieve a concentration of 2 g of gamma-hydroxybutyric acid in 10 ml of solution.

reactant | gamma-butyrolactone | 6.56 mol, 500 ml, 565 g | C1(CCCO1)=O | C4H6O2
reactant | trishydroxymethylmethylamine | 6.56 mol, 795 g | OCC(N)(CO)CO | C4H11NO3
reactant | gamma-hydroxybutyric acid | OCCCC(=O)O | C4H8O3
solvent | water | 1.8 l | O | H2O
product | Trishydroxymethyl-aminomethane 4-hydroxybutyrate | OCCCC(=O)O.OCC(N)(CO)CO | InChI=1S/C4H11NO3.C4H8O3/c5-4(1-6,2-7)3-8;5-3-1-2-4(6)7/h6-8H,1-3,5H2;5H,1-3H2,(H,6,7)
